US07223791B2
A mixture of methyl 4-[3-(3-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoate (1.69 g), 1 M aqueous sodium hydroxide solution (10 ml), methanol (15 ml) and tetrahydrofuran (15 ml) was stirred at 60° C. for 1 hr. After cooling, 1 M hydrochloric acid was added to acidify the reaction mixture. The crystals were collected by filtration and recrystallized from hexane-tetrahydrofuran to give 4-[3-(3-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid (1.35 g, yield 83%) as colorless crystals. melting point: 292–293° C.

reactant | methyl 4-[3-(3-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoate | 1.69 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NOC(=N1)C1=CC=C(C(=O)OC)C=C1 | C22H16N2O4
reactant | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
reactant | methanol | 15 ml | CO | CH4O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-[3-(3-phenoxyphenyl)-1,2,4-oxadiazol-5-yl]benzoic acid | 1.35 g, yield 83% | O(C1=CC=CC=C1)C=1C=C(C=CC1)C1=NOC(=N1)C1=CC=C(C(=O)O)C=C1 | C21H14N2O4
